US05977178
Triethyl phosphonoacetate (1.9 mL; 9.72 mmol) was dissolved in tetrahydrofuran (30 mL). Potassium tert-butoxide (1.1 g; 9.72 mmol) was added portionwise. 3-Formylazetidine-1-car-boxylic acid tert-butyl ester (1.0 g; 5.40 mmol) was dissolved in tetrahydrofuran (6 mL) and added to the reaction mixture. The reaction mixture was stirred for 1 hour at room temperature. Ethyl acetate (100 mL) and hydrochloric acid (100 mL; 1N) were added and the phases were separated. The aqueous phase was extracted with ethyl acetate (2×50 mL) and the combined organic phases were washed with saturated sodium hydrogen carbonate (100 mL), dried (magnesium sulfate) and evaporated in vacuo. The residue was chromatographed on silica (3×30 cm) using ethyl acetate/heptane (1:1) as eluent to afford 1.0 g of 3-((E)-2-ethoxycarbonylvinyl)azetidine-1-carboxylic acid tert-butyl ester.

reactant | Potassium tert-butoxide | 9.72 mmol, 1.1 g | CC(C)([O-])C.[K+]
reactant | 3-Formylazetidine-1-car-boxylic acid tert-butyl ester | 5.40 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CC(C1)C=O | C9H15NO3
reactant | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 3-((E)-2-ethoxycarbonylvinyl)azetidine-1-carboxylic acid tert-butyl ester | 1.0 g | C(C)(C)(C)OC(=O)N1CC(C1)\C=C\C(=O)OCC | C13H21NO4
